data/rdb19/train.csv
rxn,smiles,ea
816,[C:19]([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[C:19]([H:20])([H:21])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[N:7]([H:17])[H:18],62.2221074582194
152,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:14]([C:13]([C:12]([H:22])([H:23])[H:24])([H:25])[H:26])([C:15]([H:28])([H:29])[H:30])[H:27])([H:6])([H:7])[H:8].[c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35],79.41389576200163
4942,[C:15]([C:16]([C:17]([C:18]([H:28])([H:29])[H:30])([N:19]([C:20](=[O:21])[H:32])[H:31])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[O:21][C:20]([N:19]([C:17]([C:16]([C:15]([H:22])([H:23])[H:24])([H:25])[H:26])([C:18]([H:28])([H:29])[H:30])[H:27])[H:31])[H:32])([H:10])[H:11])([H:7])([H:8])[H:9],30.262914657592773
257,[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[O:12][C:13]([O:15][O:14])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5]>>[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[O:12][C:13](=[O:15])[H:17])[H:9])([H:3])([H:4])[H:5].[O:14][H:16],42.83764111297205
5514,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2]([O:3])([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:7])([H:8])[H:9],23.40944416221464
295,[O:1]([O:2])[H:3].[O:4]([C:5]([C:6]([S:7][H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([O:2][H:8])[H:3].[O:4][C:5]([C:6]([S:7][H:13])([H:11])[H:12])([H:9])[H:10],25.852979927964043
4429,[C:13]([H:14])([H:15])[H:16].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[C:13]([H:14])([H:15])[H:16].[C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12],61.04578836873407
389,[C:4]([C:5](=[O:6])[O:7][C:8](=[C:9]([H:14])[H:15])[H:13])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[H:3][O:7][C:8](=[C:9]([H:14])[H:15])[H:13].[O:1]([O:2])[C:5]([C:4]([H:10])([H:11])[H:12])=[O:6],48.23591130110435
2216,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13]([C:14]([H:23])([H:24])[H:25])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:14]([H:23])([H:24])[H:25].[C:1]([C:2]([H:3])([H:4])[C:13]([C:11]([O:10][C:9]([C:8]([H:17])([H:18])[H:19])([H:20])[H:21])=[O:12])([C:15]([C:16]([H:28])([H:29])[H:30])([H:26])[H:27])[H:22])([H:5])([H:6])[H:7],62.284711194457486
5558,[C:13]([C:14]([C:15]([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])([H:12])[C:15]([C:14]([C:13]([H:20])([H:21])[H:22])([H:23])[H:24])([H:16])[N:17]([C:18](=[O:19])[H:26])[H:25])[H:10])([H:7])([H:8])[H:9],15.980110526375938
5006,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[H:20])([H:17])([H:18])[H:19].[C:1]([O:2][C:3]([C:4]([H:9])([H:10])[H:21])[H:8])([H:5])([H:6])[H:7],35.03781925752992
4000,[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6](=[O:7])[O:8][C:9]([H:21])([H:22])[H:23])([H:13])[H:14])([H:10])([H:11])[H:12].[C:24]([C:25]([C:26]([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]=[O:7])([H:13])[H:14])([H:10])([H:11])[H:12].[O:8]([C:9]([H:21])([H:22])[H:23])[C:26]([C:25]([C:24]([H:31])([H:32])[H:33])([H:34])[H:35])([H:27])[N:28]([C:29](=[O:30])[H:37])[H:36],61.07333078829106
5523,[C:1]([C:2]([O:3])([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])[H:9].[C:2](=[O:3])([O:4][C:5](=[C:6]([H:11])[H:12])[H:10])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],8.625324302818626
